* Z:\mnt\design.r\spice\examples\3108-1.asc
C1 N007 0 1µ
V1 N001 0 PWL(.1m 0 .101m 30m)
L1 N001 N006 7.5µ Rser=85m
L2 N002 0 75m Rser=300
C2 N002 N003 1n
C3 N002 N005 330p
C4 N004 0 1m
C5 OUT 0 470µ
C6 N008 0 2.2µ
XU1 0 N007 N004 OUT NC_01 N008 N009 MP_02 MP_03 0 N007 NC_04 N003 N005 N006 LTC3108-1
K1 L1 L2 1
.tran 1 startup
.ic V(out)=2.95
.lib LTC3108-1.sub
.backanno
.end
